US07491720B2
(4) Synthesis of methyl 6-amino4-bromopyridine-2-carboxylate
7.23 g of methyl 4-bromo-6-t-butoxycarbonylamino-pyridine-2-carboxylate was dissolved in 30 ml of chloroform, and then 15 ml of trifluoroacetic acid was added thereto, followed by stirring at room temperature for 1 hour. After concentrating the reaction mixture, the residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. The residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=20/1) to give the title compound.

reactant | methyl 4-bromo-6-t-butoxycarbonylamino-pyridine-2-carboxylate | 7.23 g | BrC1=CC(=NC(=C1)NC(=O)OC(C)(C)C)C(=O)OC | C12H15BrN2O4
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-amino4-bromopyridine-2-carboxylate | NC1=CC(=CC(=N1)C(=O)OC)Br | C7H7BrN2O2
